US04255434
Finally, the 2,2-bis-chloromethyl-butan-3-one was then reacted with bromine to give 1-bromo-3,3-bis-chloromethylbutan-2-one.

reactant | 2,2-bis-chloromethyl-butan-3-one | ClCC(C)(C(C)=O)CCl | C6H10Cl2O
reactant | bromine | BrBr | Br2
product | 1-bromo-3,3-bis-chloromethylbutan-2-one | BrCC(C(C)(CCl)CCl)=O | C6H9BrCl2O
